US04623657
N-Methyl-3-[spiro[benzofuran-2(3H),1'-cycloheptane]-3-yl]propyl carbamic acid ethyl ester
To a stirred mixture, kept under nitrogen, of 7.85 g of 3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] and 11.7 g of powdered sodium bicarbonate in 250 ml of toluene was added 5.2 ml of ethyl chloroformate. The mixture was refluxed overnight and thereafter an additional 2.6 ml of ethyl chloroformate was added. The mixture was refluxed for another 5 hours and thereafter stirred overnight at room temperature. Water (250 ml) was then added with stirring. The organic phase was separated and washed successively with 2N-hydrochloric acid, water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to an oil. This material was used as such for subsequent synthesis. The IR, NMR and Mass Spectra were in accord with the designated structure.

reactant | 3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] | 7.85 g | CN(CCCC1C2=C(OC13CCCCCC3)C=CC=C2)C | C19H29NO
reactant | sodium bicarbonate | 11.7 g | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 5.2 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 2.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | Water | 250 ml | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | N-Methyl-3-[spiro[benzofuran-2(3H),1'-cycloheptane]-3-yl]propyl carbamic acid ethyl ester | C(C)OC(N(C)CCCC1C2=C(OC13CCCCCC3)C=CC=C2)=O | C21H31NO3
